US06147097
Synthesis of 5-(3,5-dimethylphenylthio)-4-isopropyl-1-methyl-1H-imidazole-2-carbaldehyde (Compound I-6)
In 16 ml of dry tetrahydrofuran was dissolved 800 mg (3.1 mmol) of 5-(3,5-dimethylphenylthio)-4-isopropyl-1-methyl-1H-imidazole (X=Y=Me) (10). This solution was cooled to -78° C. and 2.2 ml of n-butyllithium-n-hexane (1.66 molar) was added dropwise under nitrogen. After 5 minutes, 680 mg (9.3 mmol) of dry N,N-dimethylformamide was added and the reaction was further conducted at the same temperature for 15 minutes. This reaction mixture was poured in ice-water and extracted with diethyl ether. The organic layer was washed with water and dried over sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (ethyl acetate:n-hexane=1:5) to provide 644 mg (yield 73%) of Compound I-6. mp 93 to 94° C.

reactant | 5-(3,5-dimethylphenylthio)-4-isopropyl-1-methyl-1H-imidazole | 3.1 mmol, 800 mg | CC=1C=C(C=C(C1)C)SC1=C(N=CN1C)C(C)C | C15H20N2S
reactant | n-butyllithium n-hexane | 1.66 molar, 2.2 ml | C(CCC)[Li].CCCCCC
reactant | N,N-dimethylformamide | 9.3 mmol, 680 mg | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 5-(3,5-dimethylphenylthio)-4-isopropyl-1-methyl-1H-imidazole-2-carbaldehyde | 644 mg, yield 73% | CC=1C=C(C=C(C1)C)SC1=C(N=C(N1C)C=O)C(C)C | C16H20N2OS
